US09023840B2
Step 3: 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropylethyl]-3-fluorobenzamide
A mixture of 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoic acid (20.0 mg, 0.0365 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (19 mg, 0.044 mmol) in dichloromethylene (1.0 mL) was added to a mixture of (1S)-1-cyclopropylethanamine (4.7 mg, 0.055 mmol) and triethylamine (15 μL, 0.11 mmol) in methylene chloride (0.6 mL). The reaction mixture was stirred at room temperature overnight. The reaction mixture was worked up with aqueous NaHCO3, and extracted with dichloromethylene (2×2 mL). The combined organic layers were washed with water (1 mL), concentrated and dried under reduced pressure. The residue was treated with methylene chloride (1.3 mL) and trifluoroacetic acid (0.6 mL), and stirred at room temperature for 1.5 hours. The mixture was concentrated under reduced pressure. The residue was dissolved in methanol (1.3 mL). Ethylenediamine (0.086 mL, 1.3 mmol) were added. The reaction mixture was stirred at room temperature for 2 hours, and purified by RP-HPLC (pH=10) (the conditions are already mention before the examples) to afford the desired product. LCMS (M+H)+: m/z=485.2.

reactant | 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoic acid | 0.0365 mmol, 20.0 mg | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)O)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C27H30FN7O3Si
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.044 mmol, 19 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (1S)-1-cyclopropylethanamine | 0.055 mmol, 4.7 mg | C1(CC1)[C@H](C)N | C5H11N
reactant | triethylamine | 0.11 mmol, 15 μL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | Ethylenediamine | 1.3 mmol, 0.086 mL | C(CN)N | C2H8N2
solvent | methylene chloride | 0.6 mL | C(Cl)Cl | CH2Cl2
product | 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropylethyl]-3-fluorobenzamide | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)N[C@@H](C)C2CC2)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C26H25FN8O
